US07064139B2
Preparation of 2-[1-(2,5-Dimethylphenyl)octyl sulfonyl]pyridine N-oxide (Compound 7)
To a solution of 34.3 gm (0.1 mol) 2-[1-(2,5-dimethylphenyl) octylthio]pyridine N-oxide and 10.7 gm (0.26 mol) acetonitrile in 400 ml of methanol was added sufficient NaOH solution (6 N to minimize water) to adjust the pH in the operating range of 9.0 to 9.5 (true), approximately 11–12 (meter). 17 gm (0.26 mol) of 50% hydrogen peroxide was added in increments.

reactant | 2-[1-(2,5-dimethylphenyl) octylthio]pyridine N-oxide | 0.1 mol, 34.3 gm | CC1=C(C=C(C=C1)C)C(CCCCCCC)SC1=[N+](C=CC=C1)[O-] | C21H29NOS
reactant | acetonitrile | 0.26 mol, 10.7 gm | C(C)#N | C2H3N
reactant | NaOH | 6 N | [OH-].[Na+]
reactant | hydrogen peroxide | 0.26 mol, 17 gm | OO | H2O2
solvent | methanol | 400 ml | CO | CH4O
product | 2-[1-(2,5-Dimethylphenyl)octyl sulfonyl]pyridine N-oxide | CC1=C(C=C(C=C1)C)C(CCCCCCC)S(=O)(=O)C1=[N+](C=CC=C1)[O-] | C21H29NO3S
